US08614206B2
To a cooled (ice-water bath) solution of tert-butyl 6,6-difluoro-1-(1-methyl-4-nitro-1H-pyrazol-5-yl)azepan-4-ylcarbamate (190 mg, 0.51 mmol) in THF (10 mL) was added lithium hexamethyldisilazide (1M in THF, 0.8 mL, 0.8 mmol) and the mixture stirred for 30 min. Iodomethane (0.06 mL, 1.02 mmol) was added and the mixture stirred at room temperature for 16 hr. Water (2 mL) was added and the mixture extracted with EtOAc (30 mL). The organic layer was separated, dried over Na2SO4 and the solvent removed under reduced pressure. Purification via silica gel column chromatography (0-70% EtOAc/isohexane) gave tert-butyl 6,6-difluoro-1-(1-methyl-4-nitro-1H-pyrazol-5-yl)azepan-4-yl(methyl)carbamate (180 mg, 90%) as a yellow oil. 1H NMR (400 MHz, CDCl3) δ 8.09-7.99 (m, 1H), 4.57-4.38 (m, 1H), 3.85 (s, 3H), 3.84-3.53 (m, 1H), 3.45-3.15 (m, 3H), 2.81 (s, 3H), 2.53-2.29 (m, 2H), 2.16-2.01 (m, 2H), 1.48 (s, 9H).

reactant | tert-butyl 6,6-difluoro-1-(1-methyl-4-nitro-1H-pyrazol-5-yl)azepan-4-ylcarbamate | 0.51 mmol, 190 mg | FC1(CC(CCN(C1)C1=C(C=NN1C)[N+](=O)[O-])NC(OC(C)(C)C)=O)F | C15H23F2N5O4
reactant | lithium hexamethyldisilazide | 0.8 mmol, 1M, 0.8 mL | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | Iodomethane | 1.02 mmol, 0.06 mL | IC | CH3I
reactant | Water | 2 mL | O | H2O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | tert-butyl 6,6-difluoro-1-(1-methyl-4-nitro-1H-pyrazol-5-yl)azepan-4-yl(methyl)carbamate | 180 mg, 90% | FC1(CC(CCN(C1)C1=C(C=NN1C)[N+](=O)[O-])N(C(OC(C)(C)C)=O)C)F | C16H25F2N5O4
